US06794397B2
6-Chloro-N-(4-cyano-2-nitrophenyl)-3-pyridinecarboxamide
The title compound was prepared from 6-chloronicotinoyl chloride and 4-amino-3-nitrobenzonitrile and was obtained as a light yellow solid as described in Example 1. 1H NMR (CDCl3): 11.58 (s, 1H), 9.18 (d, J=8.7, 1H), 9.04 (d, J=2.4, 1H), 8.65 (d, J=2.1, 1H), 8.26-8.22 (m, 1H), 8.00-7.96 (m, 1H), 7.56 (d, J=9.0, 1H).

reactant | 6-chloronicotinoyl chloride | ClC1=NC=C(C(=O)Cl)C=C1 | C6H3Cl2NO
reactant | 4-amino-3-nitrobenzonitrile | NC1=C(C=C(C#N)C=C1)[N+](=O)[O-] | C7H5N3O2
product | 6-Chloro-N-(4-cyano-2-nitrophenyl)-3-pyridinecarboxamide | ClC1=CC=C(C=N1)C(=O)NC1=C(C=C(C=C1)C#N)[N+](=O)[O-] | C13H7ClN4O3
